US07582771B2
Synthesis of 4-{2-[2-(2-Acetylamino-ethyl)-5-chloro-1H-indol-3-yl]-ethoxy}-benzoic Acid Methyl Ester
Hydrazine hydrate (174 g, 3 mol) was added in one portion to a stirred suspension of 4-(2-{5-Chloro-2-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-1H-indol-3-yl}-ethoxy)-benzoic acid methyl ester (503 g, 1.0 mol) in 5.7 L 2-propanol. The suspension was warmed to 82 C for 3.5 h. HPLC analysis showed remaining starting material was less than 1%. The reaction mixture was allowed to cool to 70° C. and filtered at this temperature. Pyridine (1 L) was added to the filtrate, and the 2-propanol was distilled in vacuo (40C, 50 mmHg). The concentrate was charged to a 12 L 4-neck flask equipped with mechanical stirrer. The mixture was cooled to 5° C. under stirring. Acetic anhydride (113 g, 1.1 mol) was added dropwise maintaining an internal temperature below 10 C. The mixture was stirred for 0.5 h after complete acetic anhydride addition. HPLC analysis showed less 1% of amine remaining. Water (5 L) was added and the resulting suspension was stirred for 12 h at rt. The solid was collected by filtration and washed with water (3×500 mL). The product was dried in a vacuum oven at 50C to an LOD of <1%. 1H-NMR (300 MHz, DMSO−d6): δ1.78 (s, 3H), 2.87 (t, J=7 Hz, 2H), 3.10 (t, J=7 Hz, 2H), 3.36 (t, J=7 Hz, 2H), 3.80 (s, 3H), 4.16 (t, J=7 Hz, 2H), 6.98-7.03 (m, 3H), 7.26 (d, J=9 Hz, 1H), 7.57 (d, J=2 Hz, 1H), 7.88 (d, J=9 Hz, 2H), 8.00 (t, J=6 Hz, 1H), 10.90 (s, 1H) ppm

reactant | Hydrazine hydrate | 3 mol, 174 g | O.NN
reactant | 4-(2-{5-Chloro-2-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-1H-indol-3-yl}-ethoxy)-benzoic acid methyl ester | 1.0 mol, 503 g | COC(C1=CC=C(C=C1)OCCC1=C(NC2=CC=C(C=C12)Cl)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C28H23ClN2O5
reactant | Acetic anhydride | 1.1 mol, 113 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 5 L | O | H2O
solvent | 2-propanol | 5.7 L | CC(C)O | C3H8O
product | 4-{2-[2-(2-Acetylamino-ethyl)-5-chloro-1H-indol-3-yl]-ethoxy}-benzoic Acid Methyl Ester | COC(C1=CC=C(C=C1)OCCC1=C(NC2=CC=C(C=C12)Cl)CCNC(C)=O)=O | C22H23ClN2O4
